US05965589
According to the same manner as that described in reference Example 10, methyl (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-butenoate was reduced with sobutyl aluminum hydride to give (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-butenol (yield: 63%). This product was recrystallized from ethyl acetate-ether. colorless crystals, mp: 126-127° C.

reactant | methyl (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-butenoate | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)/C(=C/C(=O)OC)/C | C22H21NO4
reactant | aluminum hydride | [H-].[Al+3].[H-].[H-]
product | (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-butenol | yield: 63% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)/C(=C/CO)/C | C21H21NO3
